US07326715B2
A: 2-(6-chloro-2-methylsulfanyl-pyrimidin-4-yl-amino)-ethanol
To the solution of 4,6-dichloro-2-methylsulfanylpyrimidine (9.75 g) in methanol (150 ml) was added aminoethanol (3.1 g) and triethylamine (7.5 ml). The mixture was stirred at room temperature for 20 hrs. After removal of solvent under vacuo, the residue was dissolved in isopropanol (15 ml) and ether (30 ml) was then added. The product was collected by filtration.

reactant | 4,6-dichloro-2-methylsulfanylpyrimidine | 9.75 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | aminoethanol | 3.1 g | NC(C)O | C2H7NO
reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 150 ml | CO | CH4O
product | 2-(6-chloro-2-methylsulfanyl-pyrimidin-4-yl-amino)-ethanol | ClC1=CC(=NC(=N1)SC)NCCO | C7H10ClN3OS
